### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-03-31

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/CategoryTheory/Category/Pairwise.lean [hunk 1]
```diff
@@ -74,20 +74,13 @@ def comp : ∀ {o₁ o₂ o₃ : Pairwise ι} (_ : Hom o₁ o₂) (_ : Hom o₂
...
 instance : Category (Pairwise ι) where
   Hom := Hom
   id := id
-  comp f g := comp f g
-
-end
+  comp := @comp _
+  id_comp f := by cases f <;> rfl
+  comp_id f := by cases f <;> rfl
+  assoc f g _ := by cases f <;> cases g <;> rfl
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Category/Pairwise.lean:83]: Do we know what happened here?

Comment (kim-em) [reply Mathlib/CategoryTheory/Category/Pairwise.lean:83]: Splitting the construction into `CategoryStruct` stage, and then a `Category` stage allows us to keep the automation:

```
instance : CategoryStruct (Pairwise ι) where
  Hom := Hom
  id := id
  comp := @comp _

section

open Lean Elab Tactic in
/-- A helper tactic for `aesop_cat` and `Pairwise`. -/
def pairwiseCases : TacticM Unit := do
  evalTactic (← `(tactic| casesm* (_ : Pairwise _) ⟶ (_ : Pairwise _)))

attribute [local aesop safe tactic (rule_sets := [CategoryTheory])] pairwiseCases in
instance : Category (Pairwise ι) where

end
```

Comment (kim-em) [reply Mathlib/CategoryTheory/Category/Pairwise.lean]: I've pushed this.

File: Mathlib/Algebra/Lie/Quotient.lean [hunk 2]
```diff
@@ -218,9 +218,11 @@ noncomputable def quotKerEquivRange : (L ⧸ f.ker) ≃ₗ⁅R⁆ f.range :=
...
-      rintro ⟨x⟩ ⟨y⟩
-      rw [← SetLike.coe_eq_coe, LieSubalgebra.coe_bracket]
-      simp only [Submodule.Quotient.quot_mk_eq_mk, LinearMap.quotKerEquivRange_apply_mk, ←
-        LieSubmodule.Quotient.mk_bracket, coe_toLinearMap, map_lie] }
+      intro x y
+      induction x using Submodule.Quotient.induction_on
+      induction y using Submodule.Quotient.induction_on
+      rw [← SetLike.coe_eq_coe, LieSubalgebra.coe_bracket f.range]
+      simp only [← LieSubmodule.Quotient.mk_bracket, LinearMap.quotKerEquivRange_apply_mk,
+        coe_toLinearMap, map_lie] }
```
Comment (kim-em) [inline Mathlib/Algebra/Lie/Quotient.lean:226]:
```suggestion
      rintro ⟨x⟩ ⟨y⟩
      rw [← SetLike.coe_eq_coe, LieSubalgebra.coe_bracket f.range]
      simp only [Submodule.Quotient.quot_mk_eq_mk, LinearMap.quotKerEquivRange_apply_mk, ←
        LieSubmodule.Quotient.mk_bracket, coe_toLinearMap, map_lie] }
```

File: Mathlib/CategoryTheory/Square.lean [hunk 3]
```diff
@@ -146,8 +146,7 @@ def isoMk {sq₁ sq₂ : Square C} (e₁ : sq₁.X₁ ≅ sq₂.X₁) (e₂ : sq
 
 /-- Flipping a square by switching the top-right and the bottom-left objects. -/
 @[simps]
-def flip (sq : Square C) : Square C where
-  fac := sq.fac.symm
+def flip (sq : Square C) : Square C := { fac := sq.fac.symm, .. }
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Square.lean:149]: This one makes me sad...

File: Mathlib/GroupTheory/PushoutI.lean [hunk 4]
```diff
@@ -267,7 +267,7 @@ instance : Inhabited (NormalWord d) := ⟨NormalWord.empty⟩
 
 instance (i : ι) : Inhabited (Pair d i) :=
   ⟨{ (empty : NormalWord d) with
-      head := 1,
+      head := 1, tail := _,
```
Comment (kim-em) [inline Mathlib/GroupTheory/PushoutI.lean:270]:
```suggestion
      head := 1,
      tail := _,
```

File: Mathlib/CategoryTheory/Category/Pairwise.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/CategoryTheory/Category/Pairwise.lean]: My thinking here was that the automation was many more bytes than doing it directly, and the automation helped work around the fact that the fields weren't seeing the actual provided definition for `comp`. Maybe what I did was too big of a change for a bump PR though.

File: Mathlib/Algebra/Lie/Quotient.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/Algebra/Lie/Quotient.lean]: I switched to `Submodule.Quotient.induction_on` since that seemed like it's meant to be the actual API. Using `rintro` puts things into `Quot.mk` form.

File: Mathlib/CategoryTheory/Square.lean (hunk 3 above)
Comment (kmill) [reply Mathlib/CategoryTheory/Square.lean]: I added the inferable fields. Not sure if it's better that way...

File: Mathlib/GroupTheory/PushoutI.lean (hunk 4 above)
Comment (kmill) [reply Mathlib/GroupTheory/PushoutI.lean:270]: To be fully explicit, we could also replace this with
```
instance (i : ι) : Inhabited (Pair d i) :=
  ⟨{ head := 1,
     tail := empty.toWord,
     fstIdx_ne := fun h => by cases h
     normalized := empty.normalized }⟩
```

File: Mathlib/Algebra/Module/Presentation/Free.lean [hunk 5]
```diff
@@ -69,7 +69,7 @@ noncomputable def presentationFinsupp (G : Type w₀) :
   R := PEmpty.{w₁ + 1}
   relation := by rintro ⟨⟩
   toSolution := Relations.solutionFinsupp _
-  toIsPresentation := Relations.solutionFinsupp_isPresentation _
+  toIsPresentation := by exact Relations.solutionFinsupp_isPresentation _
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Presentation/Free.lean:72]:
```suggestion
  #adaptation_note /-- 2025-03-29 lean4#7717 Needed to add `by exact` -/
  toIsPresentation := by exact Relations.solutionFinsupp_isPresentation _
```
Or do you understand why this happened and it's expected?

File: Mathlib/Analysis/CStarAlgebra/ContinuousMap.lean [hunk 6]
```diff
@@ -36,12 +40,16 @@ namespace ContinuousMap
 
 variable [TopologicalSpace α] [CompactSpace α]
 
+#adaptation_note /-- 2025-03-29 for lean4#7717 had to add `norm_mul_self_le` field. -/
 instance [NonUnitalCStarAlgebra A] : NonUnitalCStarAlgebra C(α, A) where
+  norm_mul_self_le := CStarRing.norm_mul_self_le
```
Comment (kbuzzard) [inline Mathlib/Analysis/CStarAlgebra/ContinuousMap.lean:45]: @j-loreaux do you understand why this is happening? A lot of `norm_mul_self_le`s are being added manually now. @kmill are you able to add a comment somewhere explaining this fallout? It is one of very few "negative" changes in this PR.

File: MathlibTest/TermReduce.lean [hunk 7]
```diff
@@ -73,7 +73,7 @@ instance c : C :=
   {}
 
 set_option pp.all true in
-/-- info: @C.mk (@B.toA (@B.mk A.mk)) : C -/
+/-- info: @C.mk A.mk : C -/
```
Comment (kbuzzard) [inline MathlibTest/TermReduce.lean:76]: I'm assuming that this change in a test is expected and desired?

**Review by kbuzzard — APPROVED** [review]
Wow! This change to core Lean has caused a lot of disruption but the vast vast majority of it is positive: there are many `dsimp`s which are removed and the addition of various explicit structure fields I think makes the library better not worse (having them solved by unification is all very clever-clever but it's also super-obscure). I left a couple of comments. Do we understand why all those `norm_mul_self_le`s needed to be added in the `CStarAlgebra` directory? But overall L(V)GTM

File: Mathlib/Algebra/Module/Presentation/Free.lean (hunk 5 above)
Comment (kmill) [reply Mathlib/Algebra/Module/Presentation/Free.lean:72]: Assigning to parent projections is complicated, and there are some complicated dependent types here. It used to be that only some parent projections could be assigned, and now all of them can be. For uniformity, they're all handled in the same way; the expression is lifted to a `let` and that value is used to fill in fields; as a later step, fields are combined when possible. This code was previously taking advantage of how `toSolution` and `toIsPresentation` were actual fields in the underlying constructor.

This is what this particular expression expands to.
```
def Module.presentationFinsupp.{w₀, w₁, u} : (A : Type u) → [inst : Ring A] → (G : Type w₀) → Presentation A (G →₀ A) :=
fun A [Ring A] G ↦
  let __Solution :=
    { G := G, R := PEmpty.{w₁ + 1}, relation := fun r ↦ PEmpty.casesOn (fun x ↦ G →₀ A) r }.solutionFinsupp;
  let __IsPresentation := Relations.solutionFinsupp_isPresentation
    { G := G, R := PEmpty.{u_2 + 1}, relation := fun r ↦ PEmpty.casesOn (fun x ↦ G →₀ A) r };
  { G := G, R := PEmpty.{w₁ + 1}, relation := fun r ↦ PEmpty.casesOn (fun x ↦ G →₀ A) r, toSolution := __Solution,
    toIsPresentation := __IsPresentation }
```
Somehow, the `by exact` is deferring elaboration long enough to keep some bad unification from happening.

It's possible there's some deeper problem that needs fixing, so it's worth adding the adaptation note to keep track of it.

File: Mathlib/Analysis/CStarAlgebra/ContinuousMap.lean (hunk 6 above)
Comment (kmill) [reply Mathlib/Analysis/CStarAlgebra/ContinuousMap.lean:45]: Yes, this issue is on my radar. I have a brief comment about it [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/428973-nightly-testing/topic/.2323495.20adaptations.20for.20nightly-2025-03-31/near/509199201).

The problem is that the type of the `CStarRing` parent depends on the fields of `NonUnitalCStarAlgebra`, and that's inhibiting it from using any pre-existing instances. It's unclear what the underlying issue is yet, but I hope there will be a reasonable fix.

File: MathlibTest/TermReduce.lean (hunk 7 above)
Comment (kmill) [reply MathlibTest/TermReduce.lean:76]: Yes, the term it produces is better now. `B.toA` is a left inverse of `B.mk`.

File: Mathlib/Order/RelSeries.lean [hunk 8]
```diff
@@ -728,6 +728,7 @@ lemma head_le_last (x : LTSeries α) : x.head ≤ x.last :=
 @[simps]
 def mk (length : ℕ) (toFun : Fin (length + 1) → α) (strictMono : StrictMono toFun) :
     LTSeries α where
+  length
```
Comment (kmill) [inline Mathlib/Order/RelSeries.lean:731]:
```suggestion
  length := length
```

File: Mathlib/GroupTheory/GroupExtension/Defs.lean [hunk 9]
```diff
@@ -320,8 +320,10 @@ variable [Group G] [Group N] (φ : G →* MulAut N)
 
 /-- The group extension associated to the semidirect product -/
 def toGroupExtension : GroupExtension N (N ⋊[φ] G) G where
+  inl
```
Comment (kmill) [inline Mathlib/GroupTheory/GroupExtension/Defs.lean:323]:
```suggestion
  inl := inl
```

File: Mathlib/GroupTheory/GroupExtension/Defs.lean [hunk 10]
```diff
@@ -320,8 +320,10 @@ variable [Group G] [Group N] (φ : G →* MulAut N)
...
   inl_injective := inl_injective
   range_inl_eq_ker_rightHom := range_inl_eq_ker_rightHom
+  rightHom
```
Comment (kmill) [inline Mathlib/GroupTheory/GroupExtension/Defs.lean:326]:
```suggestion
  rightHom := rightHom
```

**Comment by kim-em** [comment]
bors merge
